US08304438B2
(a) 3-(Quinolin-3-yl)-acrylic Acid
1.006 g (6.4 mmol) of quinoline-3-carbaldehyde were dissolved in 10 ml of pyridine and 0.794 g (7.6 mmol) of malonic acid and 54 mg (0.6 mmol) of piperidine were added. The resulting solution was boiled under reflux for 6 h. The solution was allowed to cool to room temperature and kept for 16 h whereupon the product precipitated. The product was isolated by filtration. Yield: 0.765 g.

reactant | quinoline-3-carbaldehyde | 6.4 mmol, 1.006 g | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | malonic acid | 7.6 mmol, 0.794 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.6 mmol, 54 mg | N1CCCCC1 | C5H11N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(Quinolin-3-yl)-acrylic Acid | N1=CC(=CC2=CC=CC=C12)C=CC(=O)O | C12H9NO2
